US04983596
To a solution of allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-chloroethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.28 g), triphenylphosphine (0.015 g) and dimedone (0.16 g) in a mixture of 4-methyl-2-pentanone (3.36 ml), ethanol (1.68 ml) and water (0.14 ml) was added triphenylphosphine)palladium(0) (30 mg) at ambient temperature in a stream of nitrogen. The mixture was stirred at the same condition for 5 hours to give a solid. The solid was collected by filtration to give (4S,5S,6S)-3-[(2S,4S)-2-(2-chloroethyloxymethyl)pyrrolidine-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.055 g).

reactant | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-chloroethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.28 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCCCl | C24H33ClN2O7S
reactant | triphenylphosphine | 0.015 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimedone | 0.16 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | ethanol | 1.68 ml | C(C)O | C2H6O
solvent | 4-methyl-2-pentanone | 3.36 ml | CC(CC(C)=O)C | C6H12O
catalyst | palladium(0) | 30 mg | [Pd] | Pd
solvent | water | 0.14 ml | O | H2O
product | (4S,5S,6S)-3-[(2S,4S)-2-(2-chloroethyloxymethyl)pyrrolidine-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.055 g | ClCCOC[C@H]1NC[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@@H]1C)[C@@H](C)O)=O)C(=O)O | C17H25ClN2O5S
